US08859774B2
(R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(1-methyl-1H-pyrazol-4-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate
A second reaction was performed with inverse addition of n-butyl lithium. To a solution of 4-iodo-1-methyl-1H-pyrazole (157 mg, 0.755 mmol) in tetrahydrofuran (2 mL) was added n-butyl lithium (2.5 M in Hexanes) (312 μl, 0.780 mmol) at −78° C. The mixture was stirred at this temperature for 1 hour, then a solution of (R)-tert-butyl 1-(4-fluorophenyl)-4a-formyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate (100 mg, 0.252 mmol) in tetrahydrofuran (1 mL) was added dropwise to the reaction mixture. The mixture was stirred at this temperature for 30 minutes. Water (6 mL) and dichloromethane (8 mL) were added and the phases were separated using a phase separator cartridge. The solvent was removed in vacuo to give an orange oil, with a similar composition to the previous reaction product according to LC/MS analysis.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-iodo-1-methyl-1H-pyrazole | 0.755 mmol, 157 mg | IC=1C=NN(C1)C | C4H5IN2
reactant | n-butyl lithium | 0.780 mmol, 2.5 M, 312 μl | C(CCC)[Li]
reactant | (R)-tert-butyl 1-(4-fluorophenyl)-4a-formyl-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | 0.252 mmol, 100 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(C[C@]1(C2)C=O)C(=O)OC(C)(C)C | C22H24FN3O3
reactant | Water | 6 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | (R)-tert-butyl 1-(4-fluorophenyl)-4a-(R/S)-(hydroxy(1-methyl-1H-pyrazol-4-yl)methyl)-4a,5,7,8-tetrahydro-1H-pyrazolo[3,4-g]isoquinoline-6(4H)-carboxylate | FC1=CC=C(C=C1)N1N=CC2=C1C=C1CCN(CC1(C2)[C@H](C=2C=NN(C2)C)O)C(=O)OC(C)(C)C | C26H30FN5O3
